US08058441B2
(b). 1-Acetyl-6-([2,4-difluorobenzylamino]methylcarbonyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
A mixture of 1-acetyl-6-(bromoacetyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (10 mg), 2,4-difluorobenzylamine (6.0 mg) and N,N-diisopropylethylamine (10 μl) in dioxane (2 ml) was stirred at 40° C. for 18 h. The reaction mixture was concentrated in vacuo. The residue was chromatographed on silicagel in dichloromethane/methanol=1/095/5 (v/v) as eluent.

reactant | 1-acetyl-6-(bromoacetyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 10 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(CBr)=O)(C)C1=CC=CC=C1)(C)C | C22H25BrN2O2
reactant | 2,4-difluorobenzylamine | 6.0 mg | FC1=C(CN)C=CC(=C1)F | C7H7F2N
reactant | N,N-diisopropylethylamine | 10 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 1-Acetyl-6-([2,4-difluorobenzylamino]methylcarbonyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(=O)CNCC1=C(C=C(C=C1)F)F)(C)C1=CC=CC=C1)(C)C | C29H31F2N3O2
